US06617325B1
2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylic acid
A suspension of 1.5 g (0.0027 mol) of methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate in 60 ml of 6N hydrochloric acid is refluxed for 25 hours. After cooling the precipitate is filtered off and washed with water and ethyl acetate.

reactant | methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate | 0.0027 mol, 1.5 g | CC(CC(=O)OC)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C33H37F3N2O3
solvent | hydrochloric acid | 6N, 60 ml | Cl | ClH
product | 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylic acid | CC(CC(=O)O)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C32H35F3N2O3
